*==========================================================================
* Copyright 2024 IHP PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*    https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.
* SPDX-License-Identifier: Apache-2.0
*==========================================================================
*
* Regression case for IHP-Open-PDK issue #955 (--disable_tap_extraction).
* An inverter whose NMOS/PMOS bulks are tied directly to VSS/VDD and whose
* schematic contains no ntap1/ptap1 devices. It matches only when tap device
* extraction is disabled, which relies on the well/substrate tie merge in
* tap_connections.lvs. Run in deep mode (the NMOS/PMOS cells embed dummy
* devices that flat mode would merge away).

.SUBCKT test_ntap_ptap_ext VDD VSS vin vout
*.PININFO vin:I VDD:B VSS:B vout:B
MMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2
MMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2
MM1 vout vin VSS VSS sg13_lv_nmos w=20.0u l=1.0u ng=20
MM2 vout vin VDD VDD sg13_lv_pmos w=120.0u l=1.0u ng=20
.ENDS
